US09102614B2
Preparation of (4-methoxybenzyloxy)-(5-methoxy-3-methyl-1-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid ethyl ester:
A solution of (1-hydroxy-5-methoxy-3-methyl-naphthalen-2-yl)-(4-methoxy-benzyloxy)-acetic acid ethyl ester (157 mg, 0.38 mmol) in dichloromethane (3.8 mL) was cooled to −78° C. under Ar. To the solution was added 2,6-lutidine (0.1 mL) and triflic anhydride (0.1 mL) and stirred at −78° C. for 2.5 hours. Saturated sodium bicarbonate (3 mL) was added and the reaction mixture was warmed to room temperature and diluted with dichloromethane. The dichloromethane was separated, the aqueous layer extracted with CH2Cl2, and the combined organics dried over sodium sulfate and concentrated. The crude residue was purified by flash column chromatography to give the desired product (128 mg, 62% yield). LCMS-ESI+ (m/z): [M+Na]+ calcd for C25H25F3NaO8S: 565.11. Found: 565.23.

reactant | (1-hydroxy-5-methoxy-3-methyl-naphthalen-2-yl)-(4-methoxy-benzyloxy)-acetic acid ethyl ester | 0.38 mmol, 157 mg | C(C)OC(C(OCC1=CC=C(C=C1)OC)C1=C(C2=CC=CC(=C2C=C1C)OC)O)=O | C24H26O6
reactant | 2,6-lutidine | 0.1 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | triflic anhydride | 0.1 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3.8 mL | ClCCl | CH2Cl2
product | (4-methoxybenzyloxy)-(5-methoxy-3-methyl-1-trifluoromethanesulfonyloxy-naphthalen-2-yl)-acetic acid ethyl ester | 128 mg, 62% yield | C(C)OC(C(C1=C(C2=CC=CC(=C2C=C1C)OC)OS(=O)(=O)C(F)(F)F)OCC1=CC=C(C=C1)OC)=O | C25H25F3O8S
